US06355653B1
15.0 g (0.047 mol) nicotinic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide were heated at 220° C. for 20 minutes. The molten mass was then cooled, dissolved in 100 ml hot ethanol and stirred overnight at room temperature. The precipitated crystals were filtered off and dried to yield 13.6 g (96%)) 3-(5-benzenesulfonylmethyl-2H-[1,2,4]triazol-3-yl)-pyridine as white solid, MS m/e (%): 300 (M+, 8), 236(99), 159 (100), 105(43), 77(35).

reactant | nicotinic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide | 0.047 mol, 15.0 g | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(C1=CN=CC=C1)=O | C14H14N4O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(5-benzenesulfonylmethyl-2H-[1,2,4]triazol-3-yl)-pyridine | C1(=CC=CC=C1)S(=O)(=O)CC=1N=C(NN1)C=1C=NC=CC1 | C14H12N4O2S
